US09233968B1
To the solution of 4-(imidazo[1,2-b]pyridazin-6-ylethynyl)aniline (93.6 mg, 0.4 mmol, 1 eq) and 2-fluoro-4-methylbenzoic acid (62.3 mg, 1 eq) in anhydrous dichloroethane (3 mL) under nitrogen atmosphere at room temperature was added 4-(dimethylamino)pyridine (10 mg, 0.2 eq) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (92.2 mg, 1.2 eq). After the reaction was stirred at 60° C. for 3 hours, it was diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper solution was decanted, concentrated, and the solid residue was triturated with EtOAc-Hex (2:1) to yield 2-fluoro-N-[4-(imidazo[1,2-b]pyridazin-6-ylethynyl)phenyl]-5-methylbenzamide as a slightly yellow solid in amount of 122 mg.

reactant | 4-(imidazo[1,2-b]pyridazin-6-ylethynyl)aniline | 0.4 mmol, 93.6 mg, 1 eq | N=1C=CN2N=C(C=CC21)C#CC2=CC=C(N)C=C2 | C14H10N4
reactant | 2-fluoro-4-methylbenzoic acid | 62.3 mg, 1 eq | FC1=C(C(=O)O)C=CC(=C1)C | C8H7FO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 92.2 mg, 1.2 eq | Cl.CN(CCCN=C=NCC)C
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
catalyst | 4-(dimethylamino)pyridine | 10 mg, 0.2 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-fluoro-N-[4-(imidazo[1,2-b]pyridazin-6-ylethynyl)phenyl]-5-methylbenzamide | FC1=C(C(=O)NC2=CC=C(C=C2)C#CC=2C=CC=3N(N2)C=CN3)C=C(C=C1)C | C22H15FN4O
